US09056859B2
To a mixture ethyl [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate (0.42 g, 1.8 mmol) in THF (3 mL) was added 1.4 M LiOH (aq.) (5 mL) at room temperature. The mixture was stirred 3 hours at room temperature. The reaction was acidified with citric acid until Ph about 3˜4. The mixture was extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated to give [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid. 1H-NMR (400 MHz, DMSO) δ 12.62 (s, 1H), 10.16 (s, 1H), 8.54 (s, 1H), 8.01-8.09 (m, 2H), 3.80 (s, 2H).

reactant | ethyl [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate | 1.8 mmol, 0.42 g | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)OCC | C10H11N5O2
reactant | LiOH | 1.4 M, 5 mL | [Li+].[OH-]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)O | C8H7N5O2
